US07767672B2
N-{4-[4-(3,3-Dimethyl-1-oxa-6-aza-spiro[3.3]hept-6-yl)-6-(5-methyl-2H-pyrazol-3-ylamino)-pyrimidin-2-ylsulfanyl]-phenyl}-propionamide
To a solution of 3,3-Dimethyl-1-oxa-6-aza-spiro[3.3]heptane-6-carboxylic acid tert-butyl ester (60 mg, 0.27 mmol) in DCM (3 ml) at 0° C. was added trifluoroacetic acid and the reaction stirred at room temperature for 1 hr. The reaction was concentrated to give an oil which was used crude in the next step. The oily residue was dissolved in n-BuOH (3 ml) and diisopropylethylamine (171 mg, 1.35 mmol, 0.24 ml) and N-{4-[4-Chloro-6-(5-methyl-2H-pyrazol-3-ylamino)-pyrimidin-2-ylsulfanyl]-phenyl}-propionamide (93 mg, 0.24 mmol) was added. The mixture was heated to 100° C. and stirred for 18 hrs. The reaction was allowed to cool to room temperature and diluted with brine (20 ml) and ethyl acetate (20 ml). The organic layer was dried (Na2SO4) and concentrated to give an oil. The oil was purified by flash column chromatography eluting with 2.5% MeOH in ethyl acetate to give the title compound as a pale orange solid 25 mg, 20%. 1H NMR (d6-DMSO, 400 MHz) 1.08 (3H, m), 1.20 (6H, s), 1.98 (3H, s), 2.34 (2H, q), 3.78 (2H, d), 4.14-4.15 (4H, m), 5.35 (1H, s), 5.61 (1H, brs), 7.47 (2H, d), 7.70 (2H, d), 9.24 (1H, s), 10.07 (1H, s), 11.43 (1H, s). ES+ 480.

reactant | 3,3-Dimethyl-1-oxa-6-aza-spiro[3.3]heptane-6-carboxylic acid tert-butyl ester | 0.27 mmol, 60 mg | C(C)(C)(C)OC(=O)N1CC2(C(CO2)(C)C)C1 | C12H21NO3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropylethylamine | 1.35 mmol, 0.24 ml, 171 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-{4-[4-Chloro-6-(5-methyl-2H-pyrazol-3-ylamino)-pyrimidin-2-ylsulfanyl]-phenyl}-propionamide | 0.24 mmol, 93 mg | ClC1=NC(=NC(=C1)NC=1NN=C(C1)C)SC1=CC=C(C=C1)NC(CC)=O | C17H17ClN6OS
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
solvent | n-BuOH | 3 ml | CCCCO | C4H10O
solvent | brine | 20 ml | [Cl-].[Na+].O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | N-{4-[4-(3,3-Dimethyl-1-oxa-6-aza-spiro[3.3]hept-6-yl)-6-(5-methyl-2H-pyrazol-3-ylamino)-pyrimidin-2-ylsulfanyl]-phenyl}-propionamide | 25 mg, 20% | CC1(COC12CN(C2)C2=NC(=NC(=C2)NC=2NN=C(C2)C)SC2=CC=C(C=C2)NC(CC)=O)C | C24H29N7O2S
